US08183381B2
Step 1: 6-(1H-Tetrazol-1-yl)pyridin-3-ol
NaN3 (2.89 g, 44 mmol) and triethylorthoformate (7.4 ml, 44 mmol) were added to commercially available 6-amino-pyridin-3-ol (3.5 g, 32 mmol) in AcOH (50 mL). The reaction mixture was heated to 100° C. for 1-3 hours. The reaction was cooled to room temperature and left to stand overnight. The precipitate was filtered, washed with EtOAc (150 mL) and dried in vacuo. The crude product was obtained as a beige solid and used in the next step without further purification.

reactant | NaN3 | 44 mmol, 2.89 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylorthoformate | 44 mmol, 7.4 ml | C(C)OC(OCC)OCC | C7H16O3
reactant | 6-amino-pyridin-3-ol | 32 mmol, 3.5 g | NC1=CC=C(C=N1)O | C5H6N2O
solvent | AcOH | 50 mL | CC(=O)O | C2H4O2
product | 6-(1H-Tetrazol-1-yl)pyridin-3-ol | N1(N=NN=C1)C1=CC=C(C=N1)O | C6H5N5O
